US07897621B2
a) 5-(4-Chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-2-trifluoromethyl-nicotinic acid
5-Bromo-6-(2,2,2-trifluoro-ethoxy)-2-trifluoromethyl-nicotinic acid ethyl ester (2 g, 5.05 mmol) was dissolved in ethanol (30 ml). To this solution was added with stirring [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) CH2Cl2 (41.2 mg, 0.05 mmol), 4-chlorophenylboronic acid (828.8 mg, 5.3 mmol), water (4.8 ml) and lithium hydroxide (246.7 mg, 10.1 mmol). This mixture was heated to 70° C. for 2.5 h and cooled to room temperature. Water (12 mL) and lithium hydroxide (370.0 mg, 15.1 mmol) was added and stirred at 70° C. for 0.5 h. The reaction mixture was cooled to room temperature, treated with water (40 ml) and toluene (40 ml) and extracted. The phases were separated, the organic phase extracted with water (30 ml). The combined water phase was acidified with HCl 2N and extracted with ethylacetate. Organic phases were pooled, dried with Na2SO4 and the volatiles removed in vacuo. The residue was dissolved in ethanol (6 ml) and treated with water (12 ml) to give after crystallization the title compound (1.82 g) as light brown crystals; MS (ISN) 398.0 (M−H)−.

reactant | 5-Bromo-6-(2,2,2-trifluoro-ethoxy)-2-trifluoromethyl-nicotinic acid ethyl ester | 5.05 mmol, 2 g | C(C)OC(C1=C(N=C(C(=C1)Br)OCC(F)(F)F)C(F)(F)F)=O | C11H8BrF6NO3
reactant | 4-chlorophenylboronic acid | 5.3 mmol, 828.8 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | water | 4.8 ml | O | H2O
reactant | lithium hydroxide | 10.1 mmol, 246.7 mg | [OH-].[Li+]
reactant | Water | 12 mL | O | H2O
reactant | lithium hydroxide | 15.1 mmol, 370.0 mg | [OH-].[Li+]
reactant | water | 40 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 0.05 mmol, 41.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-2-trifluoromethyl-nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC(=C(C(=O)O)C1)C(F)(F)F)OCC(F)(F)F | C15H8ClF6NO3
